### PR TITLE
[Merged by Bors] - feat(CategoryTheory/Limits/Shapes/ZeroMorphisms): Induced zero morphisms by fully faithful functors

### PR DESCRIPTION
**Pull request by justus-springer**
Given a fully faithful functor `F : D ⥤ C` where `C` has zero morphisms, this PR constructs a `HasZeroMorphisms D` by taking preimages. As a special case, given an object property in a category with zero morphisms, this PR makes an instance `HasZeroMopshisms P.FullSubcategory`. This is similar to `CategoryTheory.Preadditive.fullSubcategory`, which transports a preadditive structure onto a full subcategory of an object property. However, since we also have the instance `CategoryTheory.Preadditive.preadditiveHasZeroMorphisms`, this creates a diamond:
```
Preadditive C --> Preadditive P.FullSubcategory --> HasZeroMorphisms P.FullSubcategory
Preadditive C --> HasZeroMorphisms C --> HasZeroMorphisms P.FullSubcategory
```
The resulting instances were defeq, though not reducibly. Following Joel's suggestion, I changed `CategoryTheory.Preadditive.fullSubcategory` to explicitly set the zero field to make them reducibly defeq. This avoids having to add `backwards.isDefEq.respectTransparency`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Limits/Preserves/Shapes/Zero.lean [hunk 1]
```diff
@@ -126,6 +126,13 @@ omit [HasZeroMorphisms C] in
 @[simp] lemma whiskerRight_zero {F G : C ⥤ D} (H : D ⥤ E) [H.PreservesZeroMorphisms] :
     whiskerRight (0 : F ⟶ G) H = 0 := by cat_disch
 
+omit [HasZeroMorphisms C] in
+lemma FullyFaithful.preservesZeroMoprhisms (F : C ⥤ D) (hF : F.FullyFaithful) :
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Preserves/Shapes/Zero.lean]:
```suggestion
lemma FullyFaithful.preservesZeroMorphisms (F : C ⥤ D) (hF : F.FullyFaithful) :
```

File: Mathlib/Algebra/Category/FGModuleCat/Abelian.lean [hunk 2]
```diff
@@ -32,6 +32,7 @@ instance {X Y : FGModuleCat k} (f : X ⟶ Y) : IsIso (Abelian.coimageImageCompar
       (forget₂ (FGModuleCat k) (ModuleCat k)) f).symm
   Functor.FullyFaithful.isIso_of_isIso_map (ModuleCat.isFG k).fullyFaithfulι _
 
+set_option backward.isDefEq.respectTransparency false in
```
Comment (joelriou) [inline Mathlib/Algebra/Category/FGModuleCat/Abelian.lean]: It seems this can be solved by redefining the preadditive structure on a fullsubcategory as:
```lean
instance fullSubcategory (Z : ObjectProperty C) : Preadditive Z.FullSubcategory where
  homGroup P Q :=
    { zero := Z.homMk 0
      __ := InducedCategory.homEquiv.addCommGroup }
  add_comp _ _ _ _ _ _ := by ext; apply add_comp
  comp_add _ _ _ _ _ _ := by ext; apply comp_add
```
in the file `Preadditive.Basic`.

File: Mathlib/CategoryTheory/Limits/Shapes/ZeroMorphisms.lean [hunk 3]
```diff
@@ -779,4 +799,27 @@ instance : Epi (coprod.snd X Y) where
...
+end Limits
+
+namespace ObjectProperty
+
+open Limits
+
+variable {C : Type*} [Category* C] [HasZeroMorphisms C] (P : ObjectProperty C)
+
+instance [HasZeroMorphisms C] : HasZeroMorphisms P.FullSubcategory where
+  -- Note: Add zero field explicitly for better definitional equalities.
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Shapes/ZeroMorphisms.lean]:
```suggestion
  -- Note: Add zero field explicitly for a better transparency of definitional properties
```

File: Mathlib/CategoryTheory/Preadditive/Basic.lean [hunk 4]
```diff
@@ -115,8 +115,12 @@ def _root_.CategoryTheory.InducedCategory.homAddEquiv
 
 end InducedCategory
 
-instance fullSubcategory (Z : ObjectProperty C) : Preadditive Z.FullSubcategory :=
-  inferInstanceAs (Preadditive (InducedCategory _ ObjectProperty.FullSubcategory.obj))
+instance fullSubcategory (Z : ObjectProperty C) : Preadditive Z.FullSubcategory where
+  homGroup P Q :=
+    { zero := Z.homMk 0 -- Note: Add zero field explicitly for better definitional equalities
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Preadditive/Basic.lean]:
```suggestion
    { zero := Z.homMk 0 -- Note: Add zero field explicitly for a better transparency of definitional properties
```

File: Mathlib/CategoryTheory/Limits/Shapes/ZeroMorphisms.lean (hunk 3 above)
Comment (joelriou) [reply Mathlib/CategoryTheory/Limits/Shapes/ZeroMorphisms.lean]: (Note that this does not change the definitional properties, but it makes it more transparent: terms would match syntactically after doing `dsimp`.)

**Comment by joelriou** [comment]
Thanks!

bors merge
